US04145432
Starting from a mixture of 2 -phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate (1.03 g), hydroxylamine hydrochloride (178.6 mg) and sodium acetate (352 mg) in acetic acid (8 ml) and acetic anhydride (1 ml), there was obtained in a similar manner to that of Example 4-2) an oil (420 mg) of 2-phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-cyano-1,4-dihydropyridine-3-carboxylate.

reactant | 2 -phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 1.03 g | CC=1NC(=C(C(C1C(=O)OCCOC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C25H24N2O8
reactant | hydroxylamine hydrochloride | 178.6 mg | Cl.NO
reactant | sodium acetate | 352 mg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 2-phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-cyano-1,4-dihydropyridine-3-carboxylate | 420 mg | CC=1NC(=C(C(C1C(=O)OCCOC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C#N | C25H23N3O7
